US06133319
a) Preparation of N-(2-Hydroxy-4-nitrophenyl)-N'-[1-(ethoxycarbonyl)-2-methylpropyl)urea
To a solution of ethyl 2-isocyanato-3-methybutyrate (333 mg, 1.95 mmol) in DMF (1.0 ml), 2-hydroxy-4-nitroaniline (300 mg, 1.95 mmol) was added. The reaction mixture was stirred at 80° C. for 16 hours. Chromatography of the resulting liquid on silica gel gave desired product (420 mg, 66%). EI-MS m/z 326 (M+).

reactant | ethyl 2-isocyanato-3-methybutyrate | 1.95 mmol, 333 mg | N(=C=O)C(C(=O)OCC)C(C)C | C8H13NO3
reactant | 2-hydroxy-4-nitroaniline | 1.95 mmol, 300 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-(2-Hydroxy-4-nitrophenyl)-N'-[1-(ethoxycarbonyl)-2-methylpropyl)urea | 420 mg, 66% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC(C(C)C)C(=O)OCC | C14H19N3O6
